US05981521
Step 3: 6-Amino-3.3-diphenylhexan-1-ol (Compound 18. Scheme 4)
To a suspension of lithium aluminumhydride (0.57 g. 15 mmol) in anhydrous THF (20 mL) was added carefully dropwise a solution of 4,4-diphenyl-5-formylpentanonitrile (1.96 g. 7.4 mmol) in anhydrous THF (20 mL). The mixture was stirred at rt for 1.5 hr. The reaction mixture was quenched by careful addition of SN NaOH (2.5 mL) and followed by water (1.5 mL). The mixture was stirred at room temperature for 10 min and then filtered and the solid was washed twice with diethylether. The organic filtrates were combined, dried (Na2SO4) and concentrated to give the desired product as solid foam (1.60 g, 80%): MS showed (M+H)+ (270; 1H-NMR (CDCl3, δ): 1.17-1.34 (m, 2H), 2.12-2.22 (m, 2H), 2.31-2.43 (m, 2H), 2.62-2.74 (m, 2H), 3.30-3.40 (m, 2H), 7.11-7.34 (m, 1OH).

reactant | lithium | [Li] | Li
reactant | 4,4-diphenyl-5-formylpentanonitrile | 7.4 mmol, 1.96 g | C1(=CC=CC=C1)C(CCC#N)(CC=O)C1=CC=CC=C1 | C18H17NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-Amino-3.3-diphenylhexan-1-ol | NCCCC(CCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H23NO
